US07618989B2
6-Bromo-5-oxo-5,6,7,8-tetrahydronaphthalene-2-carbonitrile (0.23 g, 0.90 mmol) was dissolved in 10 mL of ethanol and N-[1-ethyl-1-(hydroxymethyl)propyl]thiourea (133 mg, 1.32 mmol), prepared in step 5 of example 2, was added and the mixture was heated to reflux for 1 h. The mixture was cooled, diluted with ethyl acetate and washed with H2O, NaHCO3, brine, dried over anhydrous MgSO4, filtered and concentrated. Flash chromatography (3% acetone/hexane) afforded 2-{[1-ethyl-1-(hydroxymethyl)propyl]amino}-4,5-dihydronaphtho[1,2-d][1,3]thiazole-7-carbonitrile (160 mg, 55%) as a white solid. HRMS: calcd for C18H21N3OS+H+, 328.14781. found (ESI-FTMS, [M+H]1+), 328.14836; Analytical HPLC: purity 93.3% at 210-370 nm, 10.3 min.; 96.4% at 254 nm, 10.3 min.; the Xterra® RP18 column, 3.5μ, 150 ×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. pH=3.5/ACN+MeOH) for 10 min, hold 4 min.

reactant | 6-Bromo-5-oxo-5,6,7,8-tetrahydronaphthalene-2-carbonitrile | 0.90 mmol, 0.23 g | BrC1C(C=2C=CC(=CC2CC1)C#N)=O | C11H8BrNO
reactant | N-[1-ethyl-1-(hydroxymethyl)propyl]thiourea | 1.32 mmol, 133 mg | C(C)C(CC)(CO)NC(=S)N | C7H16N2OS
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-{[1-ethyl-1-(hydroxymethyl)propyl]amino}-4,5-dihydronaphtho[1,2-d][1,3]thiazole-7-carbonitrile | 160 mg, 55% | C(C)C(CC)(CO)NC=1SC2=C(N1)C1=CC=C(C=C1CC2)C#N | C18H21N3OS
